US05516788
cis 4b,5,9b,10-Tetrahydro-2-methoxy-1,3-dimethyl-8-isopropylindeno[1,2-b]indole.
5,10-Dihydro-2-methoxy-1,3-dimethyl-8-isopropylindeno[1,2-b]indole (1.68 g, 5.5 mmol) was dissolved in trifluoroacetic acid (10 cm3) and stirred vigorously. Triethylsilane (1 cm3, 1.1 eq) was added, and stirring continued for 4 hours. The reaction was poured into water, stirred for 15 minutes, and neutralised with 2M NaOH. All organic material was extracted into ethyl acetate, washed with water and dried (Na2SO4 ). After removal of solvent, the solid material was recrystallised from 60°-80° petroleum ether as white needles. Yield: 1.18 g, 70% .M.p. 106° C. 1H NMR (CDCl3) δ: 7.05 (1H, s), 6.97 (1H, s), 6.88 (1H, dd, J=8.6 Hz), 6.55 (1H, d, J=8.1 Hz), 5.19 (1H, d, J=8.4 Hz), 4.18 (1H, ddd), 3.8 (1 H, br), 3.64 (3H, s), 3.36 (1H, dd, J=16.5, 8.3 Hz), 3.07 (1H, d(br) J=16.5 Hz), 2.81 (1H, septet, J=7.0 Hz), 2.25 (3H, s), 2.15 (3H, s), 1.20 (6H, d, J=7.0 Hz).

reactant | 5,10-Dihydro-2-methoxy-1,3-dimethyl-8-isopropylindeno[1,2-b]indole | 5.5 mmol, 1.68 g | COC=1C(=C2CC3=C(NC=4C=CC(=CC34)C(C)C)C2=CC1C)C | C21H23NO
reactant | Triethylsilane | 1 cm3, 1.1 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
reactant | NaOH | 2M | [OH-].[Na+]
solvent | trifluoroacetic acid | 10 cm3 | FC(C(=O)O)(F)F | C2HF3O2
product | cis 4b,5,9b,10-Tetrahydro-2-methoxy-1,3-dimethyl-8-isopropylindeno[1,2-b]indole | COC=1C(=C2C[C@H]3[C@H](NC=4C=CC(=CC34)C(C)C)C2=CC1C)C | C21H25NO
